US04916470
A 4 liter conical flask was then charged with 137.4 grams (0.6757 mole) of 4-t-butylphthalimide and 2 liters of 29 percent ammonium hydroxide solution and the solution was stirred vigorously with a mechanical stirrer. After 3 hours, the creamy suspension was suction filtered and washed with a small amount of water. The faint green powder was dried at 120° C. for one day to yield 134.19 grams of 4-t-butylphthalamide, which exhibited a melting point of 172° to 175° C. The identity of the 4-t-butyl-phthalamide product was confirmed by IR spectrum.

reactant | 4-t-butylphthalimide | 0.6757 mole, 137.4 grams | C(C)(C)(C)C=1C=C2C(C(=O)NC2=O)=CC1 | C12H13NO2
reactant | ammonium hydroxide | 2 liters | [OH-].[NH4+]
product | 4-t-butylphthalamide | 134.19 grams | C(C)(C)(C)C=1C=C(C(C(=O)N)=CC1)C(=O)N | C12H16N2O2
